US06599925B2
To an ice-cooled mixture of 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone (1.59 g, 4.62 mmol) in glacial acetic acid (50 mL) was added potassium acetate (4.54 g, 46.2 mmol). The mixture was stirred at room temperature for 15 minutes and then chilled again in an ice bath. Bromine (0.27 mL, 5.3 mmol) in acetic acid (6 mL) was added dropwise. The mixture was stirred at room temperature for 15 minutes. It was poured into excess water and filtered. The precipitate was dissolved in ethyl acetate, with some warming, and dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to dryness to afford 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone as a yellow solid (1.85 g), mp 171-172° C. Mass spectrum (+APCl, [M+H]+) m/z 423. 1HNMR (400 MHz, DMSO-d6): δ10.95 (s, 1H), 8.4 (d, 1H, J=1.7 Hz), 8.15 (d, 1H, J=9.0 Hz), 8.05-8.1 (m, 2H), 7.95 (dd, 1H, J=8.8 Hz and 2.0 Hz), 7.7-7.75 (m, 1H), 7.35-7.45 (m, 3H), 2.75 (t, 2H, J=7.3 Hz), 1.5-1.6 (m, 2H), 1.1-1.2 (m, 2H), and 0.7 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C23H19BrO3. 0.25 H2O: Calculated: C, 64.57; H, 4.59; N, 0.00. Found: C, 64.19; H, 4.26; N, 0.05.

reactant | 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 4.62 mmol, 1.59 g | OC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H20O3
reactant | potassium acetate | 46.2 mmol, 4.54 g | C(C)(=O)[O-].[K+]
reactant | Bromine | 5.3 mmol, 0.27 mL | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 1-[2-(5-bromo-6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 1.85 g | BrC1=C2C=CC(=CC2=CC=C1O)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H19BrO3
